US05236931
(S)-(-)-Amino-N-(1-azabicyclo[2,2,2]oct-3-yl)-5-chloro-2-[(3-iodophenyl)methoxy]benzamide
A solution of 4-amino-5-chloro-2-[(3-iodophenyl)methoxy]benzoic acid (3.23 g, 8.0 mmol) in anhydrous tetrahydrofuran (4 mL) and anhydrous N,N-dimethylformamide (4 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.46 g, 9.9 mmol), stirred for 45 minutes, and degased over 15 minutes under a stream of nitrogen. A solution of (S)-3-aminoquinuclidine (1.54 g, 12.2 mmol) in anhydrous tetrahydrofuran (4 mL) was added, and the mixture was stirred at room temperature for 18 hours, warmed to 55°±5° C. for three hours, and concentrated in vacuo. The residue was partitioned between 3.0N sodium hydroxide (50 mL) and toluene (100 mL) containing some 2-propanol, and the organic layer was separated. The aqueous solution was extracted with toluene (50 mL) containing some 2-propanol, and the combined organic solution was concentrated in vacuo. The residue was washed with water to remove most of the imidazole, then dried azeotropically with toluene, taken up in tetrahydrofuran, and filtered through a short column of alumina (eluted with 10% methanol/tetrahydrofuran). The filtrate was concentrated in vacuo, taken up in warm acetone, and filtered. After a few hours, a solid had crystallized, and this was collected and dried in vacuo to afford (following second crop) 1.10 g (27%) of colorless solid; mp 101.5°-104° C., [α]D22 -6.35° (C=1 in methanol).

reactant | 4-amino-5-chloro-2-[(3-iodophenyl)methoxy]benzoic acid | 8.0 mmol, 3.23 g | NC1=CC(=C(C(=O)O)C=C1Cl)OCC1=CC(=CC=C1)I | C14H11ClINO3
reactant | 1,1'-carbonyldiimidazole | 9.9 mmol, 1.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-3-aminoquinuclidine | 12.2 mmol, 1.54 g | N[C@@H]1CN2CCC1CC2 | C7H14N2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (S)-(-)-Amino-N-(1-azabicyclo[2,2,2]oct-3-yl)-5-chloro-2-[(3-iodophenyl)methoxy]benzamide | 1.10 g, 27% | NC=1C(=C(C(=O)N[C@@H]2CN3CCC2CC3)C=C(C1)Cl)OCC1=CC(=CC=C1)I | C21H23ClIN3O2
